Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
ALS s/p PEG
 
Major Surgical or Invasive Procedure:
PEG placement 
 
History of Present Illness:
Pt is a ___ y.o male with ALS dx ___, HTN, DM who presents 
for observation following PEG placement. Of note, pt recent 
scheduled to start bypap as an outpatient. Supplies delivered 
yesterday per pt and has not used yet. 
Pt reported weakness, difficulty breathing, orthopnea and 
dysphagia recently. In terms of dysphagia, per Neurology notes, 
planning for S+S evaluation after PEG placement. Pt currently 
denies any pain. He denies recent fever, chills, nausea, 
vomiting, diarrhea, constipation, melena, brbpr, dysuria, CP, 
sob, palpitations. Pt reports 20lb wt loss since ___. 
.
10 ___ ROS reviewed and otherwise negative. Please see above  
 
Past Medical History:
ALS
HTN
DM
 
Social History:
___
Family History:
mother died from colon ca
father died from ?heart disease
sister died from nephritis
 
Physical Exam:
ADMISSION PHYSICAL EXAM
AVSS
GEN:well appearing, NAD, sitting in chair 
vitals:T 97.3 BP 158/100 HR 95 RR 20 sat 94% on RA 
HEENT: ncat eomi anicteric 
neck: supple
chest: b/l ae no w/c/r
heart: s1s2 rr no m/r/g
abd: +bs, soft, NT, +PEG placement bandage c/d/I, no guarding or 
rebound 
ext: no c/c/e 2+pulses
neuro: face symmetric, speech fluent
psych: calm, cooperative 

DISCHARGE PHYSICAL EXAM:  
97.7  150/98  P78  R18  92% on RA
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, ___, 
___  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: freshly placed G tube appears clean dry and intact.
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: Diffuse weakness noted. Very slack facial expression with 
mild dysarthria when speaking. Weak handshake but able to raise 
both arms. 
 
Pertinent Results:
EGD report ___:
Indications: ___ yo M w/Hx of DM and HTN recently diagnosed w/ALS
 
Procedure: The procedure, indications, preparation and potential 
complications were explained to the patient, who indicated his 
understanding and signed the corresponding consent forms. A 
physical exam was performed. The patient was administered MAC 
anesthesia. Supplemental oxygen was used. The patient was placed 
in the left lateral decubitus position and an endoscope was 
introduced through the mouth and advanced under direct 
visualization until the third part of the duodenum was reached. 
Careful visualization of the upper GI tract was performed. The 
procedure was not difficult. The patient tolerated the procedure 
well. There were no complications. 
Findings: 
Esophagus: Normal esophagus. 

Stomach: Normal stomach. 

Duodenum: Normal duodenum. 

Other
procedures: The stomach was inflated with air, and by a 
combination of transillumination and manual palpation, the site 
for the gastrostomy tube placement was selected and marked on 
the anterior abdominal wall. The skin of the anterior abdomen 
was prepped and draped in sterile fashion. Utilizing strict 
sterile technique, the selected site was then anesthetized with 
1% xylocaine by injection into the skin and subcutaneous tissue. 
 A small incision was made.  The needle/cannula assembly was 
then passed through the abdominal wall and through the anterior 
wall of the stomach, maintaining visualization with the 
endoscope.  A snare device was placed through the instrument 
channel, opened and placed around the cannula then the wire was 
inserted and snared. The needle was removed, then the snare was 
then pulled up to the endoscope distal tip, and the scope was 
then withdrawn bringing with it the snare and insertion wire. A 
___ ___ Endovive PEG tube was then inserted 
through the mouth and pulled through the needle insertion site. 
The guidewire was removed.  The PEG tube was pulled snug with 
the external bumper at 4.5cm.  The external bolster was placed 
over the tube to secure it to the abdominal wall. A sterile 
dressing was then applied, and the procedure completed. 

Impression: •Successful ___ PEG placement. 
 

Recommendations: •Admit to hospital for overnight monitoring. 
•Meds and flushes x first 24 hours
•Advance diet with tube feeds following tube check by ERCP 
Fellow tomorrow AM.

 

Additional notes: The procedure was performed by Dr. ___ 
___ the GI fellow. The attending was present for the entire 
procedure. FINAL DIAGNOSES are listed in the impression section 
above. Estimated blood loss = zero. No specimens were taken for 
pathology 

 
Brief Hospital Course:
Mr. ___ is a ___ y.o man with h.o ALS c/b dysphagia and 
respiratory difficulties, HTN, DM who presented for monitoring 
following PEG placement. Given progressive weight loss recently, 
nutrition was consulted and recommended starting tube feeds 
while inpatient to monitor to make sure they were tolerated 
before sending him home to continue tube feedings there. Also he 
is diabetic (only on oral hypoglycemics currently) so blood 
sugars were also monitored while tube feedings were started 
which were normal. He tolerated the initiation of tube feeds up 
to the goal rate well, without any significant GI symptoms.  Per 
neurology Dr. ___ saw him while inpatient, "strongly 
recommended that he takes 100% of his nutrition via the PEG at 
this time.  The length of time that he will need this is his 
entire lifetime at this point." so he was made NPO and will go 
home with services including nursing to help with tube feeds at 
home. Rest of hospital course/plan are outlined below. 

#dysphagia/Nutrition: s/p PEG tube placement on ___
-per neurology Dr. ___ saw him while inaptient, "strongly 
recommended that he takes 100% of his nutrition via the PEG at 
this time.  The length of time that he will need this is his 
entire lifetime at this point." He was made NPO and tube feeds 
were started.
-OK to start tube feeds per ERCP fellow on ___
-Tubefeeding: Jevity 1.2 Full strength; 
 Starting rate: 10 ml/hr; Advance rate by 10 ml q4h Goal rate: 
65 ml/hr
 Residual Check: q4h Hold feeding for residual >= : 200 ml
Other instructions: Once at goal, rec 7 cans ___ 1.2 per day. 
If hyperglycemic, change to glucerna 1.2 with same rates

#ALS:restrictive ventilatory defect
- continued on home BIPAP per neurology recommendations
-bipap setting ___ (per outpt notes) while in house 
-continued riluzole  

#DM2-DM diet, HISS while inpt, hold oral agents for now. No 
recent HbA1c in our system but based on fingersticks thus far, 
suspect he will do OK with tube feeds. 

#HTN-continued coreg, hydral, lisinopril

#ppx-hep sc BID

#access-PIV

#communication-with pt, PCP notified ___ wife ___ ___. 
I spoke with his wife ___ on ___ and explained the full plan of 
care and answered all questions. I explained everything to the 
patient as well who expressed understanding.  

#Code: Full code for 24hrs after procedure. Afterwards will 
continue DNI. The patient is unsure about DNR. Pt would like to 
discuss further. 

#Dispo: was at home with wife who cares for him. Will go home 
with ___ from Kindred At Home and TFs from ___ Home Care per 
CM.

Spent > 30 minutes seeing patient and organizing discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Coreg CR (carvedilol phosphate) 40 mg oral DAILY 
2. GlipiZIDE 2.5 mg PO DAILY 
3. HydrALAzine 50 mg PO QAM 
4. HydrALAzine 25 mg PO QPM 
5. Lisinopril 40 mg PO DAILY 
6. riluzole 50 mg oral BID 
7. Sertraline 50 mg PO DAILY 
8. Tamsulosin 0.4 mg PO BID 
9. Vesicare (solifenacin) 10 mg oral BID 
10. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. HydrALAzine 50 mg PO QAM 
2. HydrALAzine 25 mg PO QPM 
3. Lisinopril 40 mg PO DAILY 
4. riluzole 50 mg oral BID 
5. Sertraline 50 mg PO DAILY 
6. Tamsulosin 0.4 mg PO BID 
7. Aspirin 81 mg PO DAILY 
8. Coreg CR (carvedilol phosphate) 40 mg oral DAILY 
9. GlipiZIDE 2.5 mg PO DAILY 
10. Vesicare (solifenacin) 10 mg oral BID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
ALS
s/p PEG tube placement

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear. Mr. ___, 

You were admitted for a PEG tube placement in your stomach to 
start tube feedings because it is no longer safe to take food by 
mouth. The PEG tube was placed without complications and you 
were initiated on tube feedings while in the hospital which you 
tolerated well. 

Please continue to use your BIPAP as instructed. You should also 
take nothing by mouth given your risk of aspirating food into 
your lungs. 

You should follow up with your outpatient providers as below. 
 
Followup Instructions:
___